US05981539
3,3-Dimethoxy-1-pentylquinuclidinium bromide.
A mixture of 3,3-dimethoxyquinuclidine (1.71 g, 10 mmol) and 1-bromopentane (1.51g, 10 mmol) was heated at 110° C. for 15 min. Yield 3.22 g, 100%.

reactant | 3,3-dimethoxyquinuclidine | 10 mmol, 1.71 g | COC1(CN2CCC1CC2)OC | C9H17NO2
reactant | 1-bromopentane | 10 mmol, 1.51g | BrCCCCC | C5H11Br
product | 3,3-Dimethoxy-1-pentylquinuclidinium bromide | [Br-].COC1(C[N+]2(CCC1CC2)CCCCC)OC | InChI=1S/C14H28NO2.BrH/c1-4-5-6-9-15-10-7-13(8-11-15)14(12-15,16-2)17-3;/h13H,4-12H2,1-3H3;1H/q+1;/p-1
